US06262044B1
To a solution of 2-amino-5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (0.308 g, 0.74 mmol) in absolute ethanol (5 ml) was added hydrazine (47 μl, 1.48 mmol). The reaction was stirred at 80° C. for 4 h and then at room temperature for another 12 h. The precipitate formed was filtered off and the filtrate concentrated in vacuo. To the oily residue was added dichloromethane (15 ml) and the precipitate formed was filtered off. The filtrate was concentrated in vacuo to give 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester 0.19 g (90%) as a solid.

reactant | 2-amino-5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.74 mmol, 0.308 g | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN2C(C1=CC=CC=C1C2=O)=O)N | C21H22N2O5S
reactant | hydrazine | 1.48 mmol, 47 μl | NN | H4N2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-amino-5-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.19 g, 90% | C(C)(C)(C)OC(=O)C1=C(SC=2COC(CC21)CN)N | C13H20N2O3S
